US04252723
Utilizing the general procedure, 3.30 g of 7-methyl-3-methylthiooxindole and an E.Q. of sublimed potassium t-butoxide in 250 ml of tetrahydrofuran was stirred and vigorously aerated for 6 h at 0° C. and 18 h at 25° C. Acidification with 1.42 ml of conc. hydrochloric acid in 20 ml of water, followed by addition of a saturated brine solution, gave an organic layer which was separated and worked up as described above to give 1.98 g of crude product. Recrystallization from methanol gave 1.09 g (40% yield) of 7-methylisatin, mp 268°-270° C.

reactant | 7-methyl-3-methylthiooxindole | 3.30 g | CC=1C=CC=C2C(C(NC12)=S)C | C10H11NS
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1.42 ml | Cl | ClH
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 7-methylisatin | 1.09 g, 40% yield | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
